US05990076
This compound was prepared using known reactions, starting from 97% pure 4-propyl-1,2- benzenediol. This starting product, having an odor of the copper, phenolic, slightly fatty type, was converted in an analogous way to that described in U.S. Pat. No. 3,799,892 to give a crude product which, after purification and crystallization in heptane at -20° C., gave 7-propyl-2H,4H-1,5-benzodioxepin-3-one with a purity above 99%, showing the following spectral data:

reactant | 4-propyl-1,2- benzenediol | C(CC)C=1C=C(C(=CC1)O)O | C9H12O2
catalyst | copper | [Cu] | Cu
product | 7-propyl-2H,4H-1,5-benzodioxepin-3-one | C(CC)C1=CC2=C(OCC(CO2)=O)C=C1 | C12H14O3
